US06887656B2
2-(2-Methylpentylthio)-1,3,4-thiadiazole-5-amine
A three-necked 3-L round bottom flask was charged with 2-methylpentyl methanesulphonate (90 g, 0.5 mol), ethanol (1.5 L) and 2-mercapto-1,3,4-thiadiazole-5-amine (66.5 g, 0.5 mol). Sodium hydroxide (20 g, 0.5 mol) was added to the stirred suspension. The mixture was heated to reflux and held at reflux over night. As the mixture warmed the cream suspension gradually dissolved. Just before refluxing began a cloudy precipitate formed. The reaction mixture was cooled to room temperature, filtered, and the residue was washed well with ethanol. The resulting filtrate was concentrated to dryness to give an off-white solid that was dissolved in ethyl acetate (1.2 L) and washed with 1) water (800 mL) and 2) brine (1 L). The filtrate was dried (MgSO4) and concentrated to dryness. An off-white solid was obtained that was recrystallised from boiling acetonitrile (150 mL). The filtered material was washed well with acetonitrile and dried (Vac/40° C.). The required product was obtained as a white solid wt 83 g; 76.5%.

reactant | 2-methylpentyl methanesulphonate | 0.5 mol, 90 g | CS(=O)(=O)OCC(CCC)C | C7H16O3S
reactant | ethanol | 1.5 L | C(C)O | C2H6O
reactant | 2-mercapto-1,3,4-thiadiazole-5-amine | 0.5 mol, 66.5 g | SC=1SC(=NN1)N | C2H3N3S2
reactant | Sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
solvent | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
product | 2-(2-Methylpentylthio)-1,3,4-thiadiazole-5-amine | CC(CSC=1SC(=NN1)N)CCC | C8H15N3S2
